US06235787B1
A solution of 0.32 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutryl-2′-isobutyl-4-methylvalerohydrazide in 10 ml of methanol was treated with 0.03 g of 4-toluenesulphonic acid. The mixture was stirred for 2 hours at room temperature and then the solvent was evaporated to leave a glass. This residue was triturated with diethyl ether to give 0.15 g of (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyryl-2′-isobutyl-4-methylvalerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutryl-2′-isobutyl-4-methylvalerohydrazide | 0.32 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(CC(C)C)C(C(C)C)=O)CC(C)C | C30H47N3O5
reactant | 4-toluenesulphonic acid | 0.03 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 10 ml | CO | CH4O
product | (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyryl-2′-isobutyl-4-methylvalerohydrazide | 0.15 g | ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(CC(C)C)C(C(C)C)=O)CC(C)C | C25H39N3O4
